* ==================================== *
* IP Name :avsdvco_1V8
* PDK : Sky130 PDK by Google SkyWater
* ==================================== *

* ~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~
*  Name of the author : KARTHIGAA S 
* ~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~

* =================================== *
 .TITLE avsd_vco_1V8 analysis @ 0.9 V 
* =================================== *


* === To INCLUDE skywater-130nm model library === *
.lib "sky130_fd_pr/models/sky130.lib.spice" tt

* === NETLIST === *

xm1 net-_m1-pad1_ net-_m1-pad2_ net-_m1-pad3_ net-_m1-pad4_ sky130_fd_pr__pfet_01v8 W=0.48 L=0.18 
xm3 net-_m3-pad1_ net-_m1-pad1_ net-_m12-pad1_ net-_m1-pad4_ sky130_fd_pr__pfet_01v8 W=0.48 L=0.18 
xm5 net-_m5-pad1_ net-_m3-pad1_ net-_m13-pad1_ net-_m1-pad4_ sky130_fd_pr__pfet_01v8 W=0.48 L=0.18 
xm7 net-_m10-pad2_ net-_m5-pad1_ net-_m14-pad1_ net-_m1-pad4_ sky130_fd_pr__pfet_01v8 W=0.48 L=0.18 
xm9 net-_m1-pad2_ net-_m10-pad2_ net-_m15-pad1_ net-_m1-pad4_ sky130_fd_pr__pfet_01v8 W=0.48 L=0.18 
xm2 net-_m1-pad1_ net-_m1-pad2_ net-_m16-pad1_ gnd sky130_fd_pr__nfet_01v8 W=0.48 L=0.18 
xm4 net-_m3-pad1_ net-_m1-pad1_ net-_m17-pad1_ gnd sky130_fd_pr__nfet_01v8 W=0.48 L=0.18 
xm6 net-_m5-pad1_ net-_m3-pad1_ net-_m18-pad1_ gnd sky130_fd_pr__nfet_01v8 W=0.48 L=0.18 
xm8 net-_m10-pad2_ net-_m5-pad1_ net-_m19-pad1_ gnd sky130_fd_pr__nfet_01v8 W=0.48 L=0.18 
xm10 net-_m1-pad2_ net-_m10-pad2_ net-_m10-pad3_ gnd sky130_fd_pr__nfet_01v8 W=0.48 L=0.18 

xm11 net-_m1-pad3_ net-_m11-pad2_ net-_m1-pad4_ net-_m1-pad4_ sky130_fd_pr__pfet_01v8 W=1.3 L=0.18 
xm12 net-_m12-pad1_ net-_m11-pad2_ net-_m1-pad4_ net-_m1-pad4_ sky130_fd_pr__pfet_01v8 W=1.3 L=0.18 
xm13 net-_m13-pad1_ net-_m11-pad2_ net-_m1-pad4_ net-_m1-pad4_ sky130_fd_pr__pfet_01v8 W=1.3 L=0.18 
xm14 net-_m14-pad1_ net-_m11-pad2_ net-_m1-pad4_ net-_m1-pad4_ sky130_fd_pr__pfet_01v8 W=1.3 L=0.18 
xm15 net-_m15-pad1_ net-_m11-pad2_ net-_m1-pad4_ net-_m1-pad4_ sky130_fd_pr__pfet_01v8 W=1.3 L=0.18 

xm16 net-_m16-pad1_ net-_m16-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 W=1.3 L=0.18 
xm17 net-_m17-pad1_ net-_m16-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 W=1.3 L=0.18 
xm18 net-_m18-pad1_ net-_m16-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 W=1.3 L=0.18 
xm19 net-_m19-pad1_ net-_m16-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 W=1.3 L=0.18 
xm20 net-_m10-pad3_ net-_m16-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 W=1.3 L=0.18

xm21 net-_m21-pad1_ net-_m1-pad2_ net-_m1-pad4_ net-_m1-pad4_ sky130_fd_pr__pfet_01v8 W=2.88 L=0.18 
xm23 f_out net-_m21-pad1_ net-_m1-pad4_ net-_m1-pad4_ sky130_fd_pr__pfet_01v8 W=1.29 L=0.18 

xm22 net-_m21-pad1_ net-_m1-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 W=1.44 L=0.18 
xm24 f_out net-_m21-pad1_ gnd gnd sky130_fd_pr__nfet_01v8 W=6.5 L=0.18 

xm25 net-_m11-pad2_ net-_m11-pad2_ bias net-_m1-pad4_ sky130_fd_pr__pfet_01v8 w=1.01 L=0.18 
xm26 net-_m11-pad2_ net-_m16-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 W=1.01 L=0.18 

* === DC VOLTAGE SOURCE (V=1.8V) === *
VDD  net-_m1-pad4_ gnd 1.8

* === DC CONTROL VOLTAGE (V=0.9V) === *
* NOTE: VCTRL can be varied from 0.4 V to 1.6 V to get various output frequency 

VCTRL net-_m16-pad2_ gnd  dc 0.9

V_Ibias net-_m1-pad4_ bias 0

* ~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~ *
* === COMMANDS FOR SIMULATION === * 
* ~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~ *
 
.control

* --- Transient analysis --- *
tran 1ps 10ns

* --- Changing Plot styles --- *
set color2 = orange
set xbrushwidth = 2.5

* --- Plotting waveform --- *
plot v(F_OUT)
plot i(v_Ibias)

print allv > plot_data_v.txt
print alli > plot_data_i.txt

.endc
.end
